US04623376
Preparation of 3-(m-chlorophenyl)-5-methylpyridazine
3-Chloro-6-(m-chlorophenyl)-4-methylpyridazine (7.2 g) is partially dissolved in 150 mL of acetic acid containing 1.5 g of 10% palladium on carbon. The mixture is shaken on the Parr hydrogenator until the theoretical amount of hydrogen is consumed.

reactant | 3-Chloro-6-(m-chlorophenyl)-4-methylpyridazine | 7.2 g | ClC=1N=NC(=CC1C)C1=CC(=CC=C1)Cl | C11H8Cl2N2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 mL, 1.5 g | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | [Pd] | Pd
product | 3-(m-chlorophenyl)-5-methylpyridazine | ClC=1C=C(C=CC1)C=1N=NC=C(C1)C | C11H9ClN2
